US05576320
a) 6-Chloro-2-pyridinecarboxylic acid
A mixture of 3.8 g (0.03 mol) of 6-chloro-2-methylpyridine and 10.45 g of KMnO4 in 380 ml of water is heated to 90° C. for 6 hours. The product is cooled, the pH is adjusted to approximately 4, water is evaporated off and the residue is taken up with ethanol. It is filtered and the ethanol is evaporated to produce 1.1 g of the compound referred to above.

reactant | 6-chloro-2-methylpyridine | 0.03 mol, 3.8 g | ClC1=CC=CC(=N1)C | C6H6ClN
reactant | KMnO4 | 10.45 g | [O-][Mn](=O)(=O)=O.[K+]
reactant | water | 380 ml | O | H2O
product | 6-Chloro-2-pyridinecarboxylic acid | 1.1 g | ClC1=CC=CC(=N1)C(=O)O | C6H4ClNO2
